US08003651B2
Boc2O (0.368 g, 1.69 mmol) was added to a solution of (S)-3-amino-2-(4-chlorophenyl)propanoic acid hydrochloride (0.199 g, 0.843 mmol) and tetramethylammonium hydroxide pentahydrate (0.382 g, 2.11 mmol) in 10:1 MeCN:H2O (7.7 mL). The reaction mixture was stirred overnight at room temperature (12 hours), after which the MeCN was removed on a rotary evaporator. The mixture was diluted with water and washed with ether (2×). The aqueous layer was acidified with KHSO4(s). The mixture was extracted with DCM, and the combined extracts were dried (Na2SO4), filtered, and concentrated to give (S)-3-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)propanoic acid (0.229 g, 90.6% yield) as a foam. HPLC>99 area % pure. LC/MS (APCI+) m/z 200 [M-BOC+H]+.

reactant | Boc2O | 1.69 mmol, 0.368 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-3-amino-2-(4-chlorophenyl)propanoic acid hydrochloride | 0.843 mmol, 0.199 g | Cl.NC[C@@H](C(=O)O)C1=CC=C(C=C1)Cl
reactant | tetramethylammonium hydroxide pentahydrate | 2.11 mmol, 0.382 g | O.O.O.O.O.[OH-].C[N+](C)(C)C
reactant | MeCN | CC#N | C2H3N
solvent | H2O | 7.7 mL | O | H2O
product | (S)-3-(tert-butoxycarbonylamino)-2-(4-chlorophenyl)propanoic acid | 0.229 g, 90.6% yield | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)C1=CC=C(C=C1)Cl | C14H18ClNO4
